US08877782B2
6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-N-cyclopropyl-nicotinamide
As described for example 342 g, 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (200 mg, 0.58 mmol) was converted, using cyclopropylamine instead of 2,2,2-trifluoroethylamine, to the title compound (100 mg, 46%) which was obtained as a white solid. MS: m/e=370.0 [M+H]+.

reactant | 6-[3-(4-chloro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.58 mmol, 200 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)Cl)=O | C17H13ClN2O4
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 6-[3-(4-Chloro-phenyl)-isoxazol-4-ylmethoxy]-N-cyclopropyl-nicotinamide | 100 mg, 46% | ClC1=CC=C(C=C1)C1=NOC=C1COC1=NC=C(C(=O)NC2CC2)C=C1 | C19H16ClN3O3
